US04243819
A mixture of 2-fluoro-4-chlorobenzoic acid (6.05 g), polyphosphoric acid (62.51 g) and CH3NO2 (5.1 g) is heated at 130°. After about 2.5 hr, the reaction mixture is poured onto ice and made basic by addition of dilute sodium hydroxide. The reaction is then worked up by extracting with ether. The combined ether extracts are washed with water and brine, dried over sodium sulfate, filtered and evaporated to yield 2-fluoro-4-chloroaniline.

reactant | 2-fluoro-4-chlorobenzoic acid | 6.05 g | FC1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClFO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | CH3NO2 | 5.1 g | C[N+](=O)[O-] | CH3NO2
product | 2-fluoro-4-chloroaniline | FC1=C(N)C=CC(=C1)Cl | C6H5ClFN
